US07355069B2
b) (4-{[2-(Methoxycarbonyl)benzyl]thio}phenyl)acetic acid
4-Mercaptophenylacetic acid (995 mg, 5.915 mmol) in THF (15 ml) was cooled in an ice-bath and sodium hydride (55-65%, 520 mg, ˜13 mmol) was added. The mixture was stirred for 30 minutes and then 2-bromomethyl-benzoic acid methyl ester (1.49 g, 6.507 mmol) in THF (5 ml) was added. The resulting mixture was stirred overnight and the temperature was allowed going up to room temperature. Water was dropped in and the mixture was stirred for ca. 20 minutes. It was then evaporated to remove THF. The residue was acidified with 1% hydrochloric acid, pH˜3, and then extracted with ethyl acetate. The organic extracts were combined, dried with magnesium sulphate and evaporated. Chromatography of the residue on a column (ISOLUTE® SI, 20 g/70 ml) using DCM, then MeOH/DCM (1:99) as eluant gave 224 mg desired product, yield 65%.

reactant | 4-Mercaptophenylacetic acid | 5.915 mmol, 995 mg | SC1=CC=C(C=C1)CC(=O)O | C8H8O2S
reactant | sodium hydride | ˜13 mmol, 520 mg | [H-].[Na+]
reactant | 2-bromomethyl-benzoic acid methyl ester | 6.507 mmol, 1.49 g | COC(C1=C(C=CC=C1)CBr)=O | C9H9BrO2
reactant | Water | O | H2O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | (4-{[2-(Methoxycarbonyl)benzyl]thio}phenyl)acetic acid | 224 mg, yield 65% | COC(=O)C1=C(CSC2=CC=C(C=C2)CC(=O)O)C=CC=C1 | C17H16O4S
